US05214037
To a suspension of 1,2,3-triazole-4-thiol sodium salt (38 g : 309 mMol.) in dimethylformamide (150 ml) at -20° C. is added dropwise chloromethyl thiolacetate (37.4 g : 300 mMol.) over 10 minutes, and the mixture is stirred at the same temperature for 30 minutes and at room temperature for 2 hours, diluted with water and extracted with ethyl acetate. The extract is washed with water, aqueous sodium hydrogen carbonate, and water, dried over sodium sulfate, and concentrated under reduced pressure. The crystalline residue is washed with hexane, dried, and recrystallized from ether to give 4-acetylthiomethylthio-1,2,3-triazole (38.9 g). Yield: 69%, mp.88 to 89° C. .

reactant | 1,2,3-triazole-4-thiol sodium salt | 309 mMol, 38 g | [Na].N1N=NC(=C1)S
reactant | chloromethyl thiolacetate | 300 mMol, 37.4 g | S1C(=CC=C1)CC(=O)OCCl | C7H7ClO2S
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-acetylthiomethylthio-1,2,3-triazole | 38.9 g, Yield: 69% | C(C)(=O)SCSC=1N=NNC1 | C5H7N3OS2
